US08304419B2
To a solution of N-({3-[(5-bromo-4-fluoro-2-nitrophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5carboxamide (55.0 mg, 0.084 mmol) in DCM (6 ml) was added TFA (3.00 ml) and the reaction mixture was stirred at RT for 2 hours. The solvent was removed and the crude material was purified via reverse phase HPLC to give N-({3-[(5-bromo-4-fluoro-2-nitrophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide (33 mg, 0.063 mmol, 75% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.03 (d, 1H), 7.74 (s, 1H), 7.32-7.45 (m, 2H), 7.10 (d, 1H), 4.65 (s, 2 H). LC-MS (ES+) m/z 520.92, [M+H].

reactant | N-({3-[(5-bromo-4-fluoro-2-nitrophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5carboxamide | 0.084 mmol, 55.0 mg | BrC=1C(=CC(=C(C1)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1COCC[Si](C)(C)C)Cl)F)[N+](=O)[O-])F | C23H23BrCl2F2N4O5Si
reactant | TFA | 3.00 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | N-({3-[(5-bromo-4-fluoro-2-nitrophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1H-imidazole-5-carboxamide | 0.063 mmol, 33 mg, 75% yield | BrC=1C(=CC(=C(C1)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1)Cl)F)[N+](=O)[O-])F | C17H9BrCl2F2N4O4
